US05206256
6-Bromo-1-(1-imidazolyl)-3,4-dihydronaphthalene
Analogously to Example 1, 2.25 g of 6-bromo-1-tetralone are reacted with 1.36 g of imidazole and 0.873 ml of thionyl chloride, yielding the title compound, which is purified by column chromatography (SiO2, hexane/ethyl acetate 9:1 to 1:1) and crystallisation from hexane/ether; m.p. 58°-64°, 1H-NMR (CDCl3): δ (ppm)=0.43 (m, 2H), 2.9 (m, 2H), 6.12 (t, 2H), 6.63 (d, 1H), 7.02 (d, 1H), 7.18 (d, 1H), 7.28 (dd, 1H), 7.36 (d, 1H), 7.61 (s, 1H).

reactant | 6-bromo-1-tetralone | 2.25 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | imidazole | 1.36 g | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 0.873 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-Bromo-1-(1-imidazolyl)-3,4-dihydronaphthalene | BrC=1C=C2CCC=C(C2=CC1)N1C=NC=C1 | C13H11BrN2
